US05463071
4-[4-(2-Amino-2-propyl)-phenyl]-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-1-methyl-imidazole
Prepared from 4-[4-(2-aminocarbonyl-2-propyl)-phenyl]-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-1-methyl-imidazole by treating with [bis(trifluoroacetoxy)iodo]benzene in acetonitrile/water at ambient temperature.

reactant | 4-[4-(2-aminocarbonyl-2-propyl)-phenyl]-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-1-methyl-imidazole | NC(=O)C(C)(C)C1=CC=C(C=C1)C=1N=C(N(C1)C)C1=CC=C(C=C1)CCC(=O)OC | C24H27N3O3
reactant | [bis(trifluoroacetoxy)iodo]benzene | FC(C(=O)OI(OC(C(F)(F)F)=O)C1=CC=CC=C1)(F)F | C10H5F6IO4
reactant | acetonitrile water | C(C)#N.O
product | 4-[4-(2-Amino-2-propyl)-phenyl]-2-[4-(2-methoxycarbonyl-ethyl)-phenyl]-1-methyl-imidazole | NC(C)(C)C1=CC=C(C=C1)C=1N=C(N(C1)C)C1=CC=C(C=C1)CCC(=O)OC | C23H27N3O2
